US07151105B2
Step 2: 2-{2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile
5-[3-Chloro-4-(cyano-dimethyl-methyl)-phenyl]-3-cyclopentyl-3-hydroxy-pent-4-enoic acid, from step 1 above, was dissolved in methyl tert-butyl ethylmalonate (3 mL). 4-DMAP (0.16 g, 0.13 mmol) and CDI (0.27 g, 1.68 mmol) were added and the reaction mixture was stirred under argon for 2 hours. In a separate flask was placed magnesium-bis-monoethyl malonate (0.74 g, 2.58 mmol) was suspended in THF (3 mL) and the mixture was heated to 42° C. The acylimidazole solution was added via cannula to the malonate mixture and the reaction was heated to 42° C. for 2 hours. The solvent was removed in vacuo to give a residue that was partitioned between 1 N HCl and EtOAc. The organic layer was dried over MgSO4 and concentrated to a clear oil (0.56 g, 100%).

reactant | 5-[3-Chloro-4-(cyano-dimethyl-methyl)-phenyl]-3-cyclopentyl-3-hydroxy-pent-4-enoic acid | ClC=1C=C(C=CC1C(C)(C)C#N)C=CC(CC(=O)O)(O)C1CCCC1 | C20H24ClNO3
reactant | CDI | 1.68 mmol, 0.27 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | malonate | C(CC(=O)[O-])(=O)[O-]
solvent | methyl tert-butyl ethylmalonate | 3 mL | C(C)C(C(=O)OC)C(=O)OC(C)(C)C | C10H18O4
catalyst | 4-DMAP | 0.13 mmol, 0.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 2-{2-Chloro-4-[2-(2-cyclopentyl-4,6-dioxo-tetrahydro-pyran-2-yl)-ethyl]-phenyl}-2-methyl-propionitrile | ClC1=C(C=CC(=C1)CCC1(OC(CC(C1)=O)=O)C1CCCC1)C(C#N)(C)C | C22H26ClNO3
